US09126981B2
Synthesis of 2,2-diethoxy-N-phenethylethanamine (Compound IX-20)
According to the procedure described in the synthesis method of Compound IX-1, 2,2-diethoxyethanamine (5.82 ml, 40 mmol) was reacted with (2-bromoethyl)benzene (2.70 ml, 20 mmol) and the obtained residue was purified by Büch silica gel column chromatography (chloroform only) to obtain the title compound (4.45 g, 94%).

reactant | 2,2-diethoxyethanamine | 40 mmol, 5.82 ml | C(C)OC(CN)OCC | C6H15NO2
reactant | (2-bromoethyl)benzene | 20 mmol, 2.70 ml | BrCCC1=CC=CC=C1 | C8H9Br
product | 2,2-diethoxy-N-phenethylethanamine | 4.45 g, 94% | C(C)OC(CNCCC1=CC=CC=C1)OCC | C14H23NO2
